US05283251
To a solution of 2,3-dimethyl-5-nitrobenzoic acid (1.7 g) in dichloromethane (20 ml) was added oxalylchloride (1.0 ml) and dimethylformamide (0.05 ml). After the solution was stirred for 1 hour at room temperature, the solvent was removed in vacuo. The residue was dissolved in tetrahydrofuran (20 ml). To the solution was added a solution of sodium phenolate (20 mmol) in tetrahydrofuran (20 ml) at 0° C. The mixture was stirred for 30 minutes and poured into diluted hydrochloric acid (110 ml). The organic layer was extracted with ethyl acetate (50 ml) and washed with water (50 ml×3). The solution was dried over magnesium sulfate and the solvent was removed in vacuo. The residue was purified by a column of silica gel to give a yellow solid of 2,3-dimethyl-5-nitrobenzoic acid phenyl ester (1.50 g).

reactant | 2,3-dimethyl-5-nitrobenzoic acid | 1.7 g | CC1=C(C(=O)O)C=C(C=C1C)[N+](=O)[O-] | C9H9NO4
reactant | oxalylchloride | 1.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium phenolate | 20 mmol | C1(=CC=CC=C1)[O-].[Na+]
reactant | hydrochloric acid | 110 ml | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 0.05 ml | CN(C=O)C | C3H7NO
product | 2,3-dimethyl-5-nitrobenzoic acid phenyl ester | 1.50 g | C1(=CC=CC=C1)OC(C1=C(C(=CC(=C1)[N+](=O)[O-])C)C)=O | C15H13NO4
